USRE029200
A solution of 10 gm. 2-ethoxycyclohexanone in 100 ml. cyclohexylpropionate was refluxed over 400 mg. of palladium on carbon until approximately 75% hydrogen had evolved. The catalyst was removed by filtration. o-Ethoxyphenol was obtained in high yield.

reactant | 2-ethoxycyclohexanone | C(C)OC1C(CCCC1)=O | C8H14O2
reactant | cyclohexylpropionate | C1(CCCCC1)OC(CC)=O | C9H16O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
product | o-Ethoxyphenol | C(C)OC1=C(C=CC=C1)O | C8H10O2
